US05273999
Preparation of 3-(2-Carboxyethyl)-4-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]-δ-oxobenzenepentanoic Acid
To a mixture of 0.442 g (0.73 mmol) of 4-[6-[3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]-3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic acid ethyl ester from the preceding example, in 7 mL of tetrahydrofuran and 7 mL of water was added 91.7 mg (2.19 mmol) of lithium hydroxide monohydrate and the reaction was stirred for room temperature for 19.3 hr. After being acidified with 16 mL of 3N aqueous sulfuric acid, the mixture was worked-up with ethyl acetate in the usual manner. The crude product thus obtained was recrystallized from hexane-ethyl acetate to give 0.309 g (77%) of the title compound as a white solid, mp 136°-139° C.

reactant | 3-(3-ethoxy-3-oxopropyl)-δ-oxobenzenepentanoic acid ethyl ester | C(C)OC(CCCC(C1=CC(=CC=C1)CCC(=O)OCC)=O)=O | C18H24O5
reactant | water | 7 mL | O | H2O
reactant | lithium hydroxide monohydrate | 2.19 mmol, 91.7 mg | O.[OH-].[Li+]
reactant | sulfuric acid | 3N, 16 mL | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Carboxyethyl)-4-[6-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]hexyl]-δ-oxobenzenepentanoic Acid | 0.309 g, 77% | C(=O)(O)CCC=1C=C(C=CC1CCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC)C(CCCC(=O)O)=O | C32H40O8
